US07381253B2
Part B: Stearyl Pyridone Synthesis
Into a 2 liter Erlenmeyer flask equipped with magnetic stirring was charged stearylamine (118 g, 0.44 mol; obtained from Sigma-Aldrich) and ethyl cyanoacetate (ECA, 45.2 grams, 0.4 mol). The mixture was heated to 120° C. for 90 minutes, after which ethyl acetoacetate (EAA, 114 grams, 0.88 mol), piperidine (PIP; 70 grams, 0.82 mol), and dimethylformamide (DMF; 140 milliliters) were added. The mixture was heated to 120° C. for 4 hours. The mixture was then allowed to cool to room temperature and was poured slowly into well stirred methanol (1,200 milliliters), which contained concentrated hydrochloric acid (100 milliliters). The resulting suspension was allowed to stir for 10 minutes, and was then filtered and washed with 3×200 milliliter portions of methanol. The resulting solid was oven dried at 60° C. to give 91.3 grams of a beige powder at 57 percent yield.

reactant | stearylamine | 0.44 mol, 118 g | C(CCCCCCCCCCCCCCCCC)N | C18H39N
reactant | ethyl cyanoacetate | 0.4 mol, 45.2 grams | C(#N)CC(=O)OCC | C5H7NO2
reactant | ethyl acetoacetate | 0.88 mol, 114 grams | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | piperidine | 0.82 mol, 70 grams | N1CCCCC1 | C5H11N
reactant | hydrochloric acid | 100 milliliters | Cl | ClH
solvent | methanol | 1,200 milliliters | CO | CH4O
solvent | dimethylformamide | 140 milliliters | CN(C=O)C | C3H7NO
product | Stearyl Pyridone | 91.3 grams, 57 percent yield | C(CCCCCCCCCCCCCCCCC)C=1C(NC=CC1)=O | C23H41NO
